US06660744B1
A suspension of indole-2-carboxylic acid (0.742 g, 4.6 mmol) in dichloromethane (3 mL) was treated with oxalyl chloride (0.700 g, 5.52 mmol) and one drop of dimethyl formamide. The reaction mixture was shaken for 18 h. The solvent was removed under reduced pressure and dried under high vacuum to afford a quantitative amount of 1H-2-indolecarbonyl chloride. The oil was directly used in the following reaction.

reactant | indole-2-carboxylic acid | 4.6 mmol, 0.742 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | oxalyl chloride | 5.52 mmol, 0.700 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | dimethyl formamide | one drop | CN(C=O)C | C3H7NO
product | 1H-2-indolecarbonyl chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
